US08258130B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid chloride (1 mmol) in EtOAc (10 mL) is added to a stirred solution of pyrrolo[2,3-b]pyridin-1-ylamine (1 mmol) and K2CO3 (1 mmol) in EtOAc (20 mL) and H2O (20 mL) at rt, then stirred at rt overnight. EtOAc is evaporated in vacuo, and the resulting solid is collected by filtration. The solid is purified by silica gel chromatography eluting with 20-80% EtOAc in heptane to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid pyrrolo[2,3-b]pyridin-1-ylamide (162 mg, 47%) as a solid. MS: 348 (M+H); 1H NMR (300 MHz, CDCl3): δ 2.78 (s, 3H), 6.59 (m, H) 7.09-7.58 (m, 4H), 7.96 (m, H), 8.22 (m, H), 8.31 (d, 2H), 9.14 (s, 2H). IC50=12 nM.

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid chloride | 1 mmol | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)Cl | C12H8ClFN2O
reactant | pyrrolo[2,3-b]pyridin-1-ylamine | 1 mmol | N1(C=CC=2C1=NC=CC2)N | C7H7N3
reactant | K2CO3 | 1 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 20 mL | O | H2O
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid pyrrolo[2,3-b]pyridin-1-ylamide | 162 mg, 47% | N1(C=CC=2C1=NC=CC2)NC(=O)C=2C(=NC(=NC2)C2=CC(=CC=C2)F)C | C19H14FN5O
